US07091214B2
An 8 L stainless steel Parr vessel was charged with N-[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]methanesulfonamide (61 g), 5% Pt/C catalyst (6.0 g) and acetonitrile (3 L). The vessel was evacuated, filled with hydrogen (45 psi, 3.1×105 Pa), and shaken at ambient temperature overnight. The reaction mixture was filtered through CELITE filter agent and concentrated under reduced pressure to provide N-[2-(3-amino-7-bromoquinolin-4-ylamino)ethyl]methanesulfonamide.

reactant | N-[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]methanesulfonamide | 61 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCNS(=O)(=O)C | C12H13BrN4O4S
catalyst | Pt/C | 6.0 g | [Pt] | Pt
solvent | acetonitrile | 3 L | C(C)#N | C2H3N
product | N-[2-(3-amino-7-bromoquinolin-4-ylamino)ethyl]methanesulfonamide | NC=1C=NC2=CC(=CC=C2C1NCCNS(=O)(=O)C)Br | C12H15BrN4O2S
